US09163012B2
To a stirred solution of 3-(1-oxo-but-2-ynyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.8 g, 3.4 mmol) in MeOH (20 mL) was added methyl-hydrazine (5 g, 44 mmol). The mixture was stirred at room temperature for 10 hours. The reaction mixture was quenched with water (50 mL) and extracted with CH2Cl2 (50 mL×3). The combined organic layers were washed with water (30 mL) and brine (30 mL), dried over Na2SO4 and concentrated. The residue was purified by preparative TLC (PE/EA=1:1) to afford 3-(1,5-dimethyl-1H-pyrazol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (800 mg, 88%) as white solid.

reactant | 3-(1-oxo-but-2-ynyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.4 mmol, 0.8 g | C(C)(C)(C)OC(=O)N1CC(CC1)C(C#CC)=O | C13H19NO3
reactant | methyl-hydrazine | 44 mmol, 5 g | CNN | CH6N2
solvent | MeOH | 20 mL | CO | CH4O
product | 3-(1,5-dimethyl-1H-pyrazol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 800 mg, 88% | C(C)(C)(C)OC(=O)N1CC(CC1)C1=NN(C(=C1)C)C | C14H23N3O2
